US04572908
(ii) Preparation of 4-(2-chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-2-[2-phthalimidoethoxymethyl]-1,4-dihydropyridine
Methyl 3-aminocrotonate (72.2 g; 0.627M) and 2-chlorobenzaldehyde (88.1 g; 0.627M) were added to a solution of ethyl 4-(2-phthalimidoethoxy)acetoacetate (200 g; 0.627M) in isopropanol (1 liter) and the mixture was heated under reflux for 20 hours. The isopropanol was evaporated under reduced pressure and replaced by acetic acid (1 liter). After granulation at 10° the solid was collected and slurried in methanol (300 ml). The solid was collected by filtration and dried in vacuo at 50° to afford the title compound, yield 84.4 g, m.p. 146°-147°.

reactant | Methyl 3-aminocrotonate | 0.627M, 72.2 g | N\C(=C/C(=O)OC)\C | C5H9NO2
reactant | 2-chlorobenzaldehyde | 0.627M, 88.1 g | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | ethyl 4-(2-phthalimidoethoxy)acetoacetate | 0.627M, 200 g | C1(C=2C(C(N1CCOCC(CC(=O)OCC)=O)=O)=CC=CC2)=O | C16H17NO6
solvent | isopropanol | 1 liter | C(C)(C)O | C3H8O
product | 4-(2-chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-2-[2-phthalimidoethoxymethyl]-1,4-dihydropyridine | ClC1=C(C=CC=C1)C1C(=C(NC(=C1C(=O)OC)C)COCCN1C(C=2C(C1=O)=CC=CC2)=O)C(=O)OCC | C28H27ClN2O7
